US06069176
After adding potassium tert-butoxide to a solution of ethyl acetoacetate (25.7 g) in benzene (420 ml) while cooling on ice, 4-methoxyphenacyl bromide (24.8 g) was gradually added and the mixture was refluxed for an hour. After allowing the reaction solution to cool, it was washed with 5% sodium hydroxide and purified water, and dried with anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to give 26.2 g of ethyl 2-[2-(4-methoxyphenyl)-2-oxoethyl]-4-oxopentanoate (87.0% yield).

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | ethyl acetoacetate | 25.7 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 4-methoxyphenacyl bromide | 24.8 g | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
solvent | benzene | 420 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-[2-(4-methoxyphenyl)-2-oxoethyl]-4-oxopentanoate | 26.2 g, 87.0% yield | COC1=CC=C(C=C1)C(CC(C(=O)OCC)CC(C)=O)=O | C16H20O5
